US08669234B2
4-tert-Butoxycarbonylamino-phenylboronic acid (500 mg, 2.11 mmol), 1,4-dibromo-benzene (2.00 g, 8.44 mmol) Pd(PPh3)4 (122 mg, 0.106 mmol) and a 2 M aqueous solution of potassium carbonate (4.2 mL, 8.44 mmol) were degassed in 1,2-dimethoxyethane (20 mL) for 10 min. The stirred suspension was heated to 80° C. for 3 hours then diluted with ethyl acetate (60 mL) and washed with water and brine. The organic phase was dried over magnesium sulfate and concentrated. The residue was purified by silica column chromatography (0% to 20% EtOAc/hexanes) to provide (4′-Bromo-biphenyl-4-yl)-carbamic acid tert-butyl ester (430 mg, 59%).

reactant | 4-tert-Butoxycarbonylamino-phenylboronic acid | 2.11 mmol, 500 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)B(O)O | C11H16BNO4
reactant | 1,4-dibromo-benzene | 8.44 mmol, 2.00 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | potassium carbonate | 8.44 mmol, 4.2 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | (4′-Bromo-biphenyl-4-yl)-carbamic acid tert-butyl ester | 430 mg, 59% | C(C)(C)(C)OC(NC1=CC=C(C=C1)C1=CC=C(C=C1)Br)=O | C17H18BrNO2
